US05389624
At room temperature, 2.2 g of sodium methylate is added to 3.0 g of 17β-hydroxy-17α-methyl-6-methyleneandrost-4-en-3-one (Tetrahedron 20: 597, 1964) in 70 ml of pyridine and 10.2 ml of formic acid methyl ester. After 18 hours, the reaction mixture is stirred into ice/water which contains hydrochloric acid. The precipitated product is suctioned off, dissolved in ethyl acetate, washed with water, and dried over sodium sulfate. Chromatography of the crude product on silica gel with a methylene chloride-(tert-butyl methyl ether) gradient yields 2.1 g of (Z)-17β-hydroxy-2-hydroxymethylene-17α-methyl-6-methyleneandrost-4-en-3-one as a foam.

reactant | sodium methylate | 2.2 g | C[O-].[Na+]
reactant | 17β-hydroxy-17α-methyl-6-methyleneandrost-4-en-3-one | 3.0 g | O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1CC(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)=C)C | C21H30O2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
solvent | formic acid methyl ester | 10.2 ml | COC=O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-17β-hydroxy-2-hydroxymethylene-17α-methyl-6-methyleneandrost-4-en-3-one | 2.1 g | O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1CC(C3=CC(\C(\C[C@]3(C)[C@H]1CC2)=C/O)=O)=C)C | C22H30O3
